US06140343
cis-4-[1-(3,5-Bis-trifluoromethyl-benzyl)-ureido]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester.
cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-chlorocarbonyl-amino]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester. (Example 50A) (125 mg) was dissolved in dichloromethane (4 mL), and cooled in an ice water bath as gasous ammonia was condensed into the solution. After stirring overnight at room temperature, the reaction mixture was quenched with 10 mL of 1N HCl and extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with 10 mL saturated sodium bicarbonate, 10 mL of brine, dried over sodium sulfate, filtered and concentrated in vacuo. Purification by silica gel chromatography using 0-50% ethyl acetate/hexanes as eluent afforded the title product (0.091 g, 76%). MS m/z 563 (M+ +1); 1H NMR (CDCl3) δ 1.18 (Me, d, 3H, J=5.9 Hz), 1.2-1.4 (m, 4H), 2.1-2.2 (m, 1H), 4.1-4.3 (m, 3H), 4.3-4.5 (m, 1H), 4.9 (bs, 2H), 5.0-5.3 (m, 3H), 7.20 (C5, s, 1H), 7.5 (d, 1H), 7.6 (d, 1H), 7.75 (s, 2H), 7.8 (s, 1H).

reactant | cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-chlorocarbonyl-amino]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(F)(F)F)N(C(=O)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C24H20ClF9N2O3
reactant | ammonia | N | H3N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | cis-4-[1-(3,5-Bis-trifluoromethyl-benzyl)-ureido]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 0.091 g, 76% | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(F)(F)F)N(C(=O)N)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C24H22F9N3O3
